US08349824B2
A mixture of 7-(4-(azetidine-1-carbonyl)-1-methyl-1H-pyrazole-5-carboxamido)-[1,2,4]triazolo[1,5-a]pyridine-2-carboxylic acid (140 mg, 0.379 mmole), 3,3,3-trifluoropropan-1-amine (214 mg, 1.9 mmole), N-ethyldiisopropylamine (265 ul, 1.52 mmole) and 1-propanephosphonic acid cyclic anhydride (50% in ethyl acetate, 569 ul, 0.948 mmole) in tetrahydrofurane (7 ml) is stirred for 10 h at roomtemperature. The reaction mixture is poured on sat. aqueous sodium bicarbonate solution (60 ml) and extracted with ethyl acetate (2×50 ml). The combined organic layer is washed once with water, once with brine, dried with magnesium sulfate and the solvent is removed in vacuo. Purification of the residue by chromatography on a 12 g silica cartridge (eluent dichloromethane+2% methanol) affords 7-(4-(azetidine-1-carbonyl)-1-methyl-1H-pyrazole-5-carboxamido)-N-(3,3,3-trifluoropropyl)-[1,2,4]triazolo[1,5-a]pyridine-2-carboxamide (31 mg, 17.6%) as a white foam. MS: m/z=465.3 (M+H+).

reactant | 7-(4-(azetidine-1-carbonyl)-1-methyl-1H-pyrazole-5-carboxamido)-[1,2,4]triazolo[1,5-a]pyridine-2-carboxylic acid | 0.379 mmole, 140 mg | N1(CCC1)C(=O)C=1C=NN(C1C(=O)NC1=CC=2N(C=C1)N=C(N2)C(=O)O)C | C16H15N7O4
reactant | 3,3,3-trifluoropropan-1-amine | 1.9 mmole, 214 mg | FC(CCN)(F)F | C3H6F3N
reactant | N-ethyldiisopropylamine | 1.52 mmole, 265 ul | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 1-propanephosphonic acid cyclic anhydride | 0.948 mmole, 569 ul | CCCP1(=O)OP(=O)(OP(=O)(O1)CCC)CCC | C9H21O6P3
reactant | sodium bicarbonate | 60 ml | C([O-])(O)=O.[Na+]
solvent | tetrahydrofurane | 7 ml | O1CCCC1 | C4H8O
product | 7-(4-(azetidine-1-carbonyl)-1-methyl-1H-pyrazole-5-carboxamido)-N-(3,3,3-trifluoropropyl)-[1,2,4]triazolo[1,5-a]pyridine-2-carboxamide | 31 mg, 17.6% | N1(CCC1)C(=O)C=1C=NN(C1C(=O)NC1=CC=2N(C=C1)N=C(N2)C(=O)NCCC(F)(F)F)C | C19H19F3N8O3
